US05541343
2-Aminoindane-5-acetic acid hydrochloride
3.6 g of methyl 2-aminoindane-5-acetate-hydrochloride are refluxed for 3 hours in 160 ml of semiconcentrated hydrochloric acid. The hydrochloric acid is distilled off and the remaining product is triturated with a little ethanol, suction filtered and dried in vacuo.

reactant | methyl 2-aminoindane-5-acetate-hydrochloride | 3.6 g | Cl.NC1CC2=CC=C(C=C2C1)CC(=O)OC
solvent | hydrochloric acid | 160 ml | Cl | ClH
product | 2-Aminoindane-5-acetic acid hydrochloride | Cl.NC1CC2=CC=C(C=C2C1)CC(=O)O | InChI=1S/C11H13NO2.ClH/c12-10-5-8-2-1-7(4-11(13)14)3-9(8)6-10;/h1-3,10H,4-6,12H2,(H,13,14);1H
